US07786165B2
[5-(benzyloxy)-2′,6′-dimethylbiphenyl-3-yl]methanol
To a solution of methyl 5-(benzyloxy)-2′,6′-dimethylbiphenyl-3-carboxylate (1.04 g, 3.00 mmol) in tetrahydrofuran (10 mL) was added lithium aluminum hydride (0.114 g, 3.00 mmol) by small portions, and the mixture was stirred under a nitrogen atmosphere at room temperature for 2 hr. Sodium sulfate decahydrate (0.967 g, 3.00 mmol) was added to the reaction mixture, and the mixture was stirred at room temperature for 1 hr. The precipitated insoluble material was filtered off through celite, and the filtrate was concentrated under reduced pressure to give the title compound (0.934 g, yield 98%) as a colorless oil.

reactant | methyl 5-(benzyloxy)-2′,6′-dimethylbiphenyl-3-carboxylate | 3.00 mmol, 1.04 g | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C1=C(C=CC=C1C)C)C(=O)OC | C23H22O3
reactant | lithium aluminum hydride | 3.00 mmol, 0.114 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | Sodium sulfate decahydrate | 3.00 mmol, 0.967 g | O.O.O.O.O.O.O.O.O.O.S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | [5-(benzyloxy)-2′,6′-dimethylbiphenyl-3-yl]methanol | 0.934 g, yield 98% | C(C1=CC=CC=C1)OC=1C=C(C=C(C1)C1=C(C=CC=C1C)C)CO | C22H22O2
